US05312904
N-(2-Dimethylphosphinothioylethyl)-N-(2-methoxyethyl)-2-benzylthio-2-methylpropylamine
To a stirred solution of N-(2-benzylthio-2-methylpropyl)-N-(2-dimethylphosphinothioylethyl)methoxyacetamide (750 mg) in dry toluene (10 cm3) at 0° C., under an atmosphere of dry nitrogen was added a solution of boranetetrahydrofuran complex in tetrahydrofuran (5.25 cm3, 1M). The mixture was stirred for 30 min at 0° C. and then for 4 h at room temperature. Concentrated hydrochloric acid (1 cm3) was added carefully and the tetrahydrofuran then removed under reduced pressure. The remaining aqueous solution was made strongly basic by the addition of aqueous sodium hydroxide (6M) and then extracted with chloroform (3×10 cm3). The extracts were dried (Na2SO4) and the solvent removed to give the product (500 mg, 71%) as a yellow oil.

reactant | N-(2-benzylthio-2-methylpropyl)-N-(2-dimethylphosphinothioylethyl)methoxyacetamide | 750 mg | C(C1=CC=CC=C1)SC(CN(C(COC)=O)CCP(=S)(C)C)(C)C | C18H30NO2PS2
reactant | hydrochloric acid | 1 cm3 | Cl | ClH
solvent | toluene | 10 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1M, 5.25 cm3 | O1CCCC1 | C4H8O
product | N-(2-Dimethylphosphinothioylethyl)-N-(2-methoxyethyl)-2-benzylthio-2-methylpropylamine | 500 mg, 71% | CP(=S)(CCN(CCOC)CC(C)(C)SCC1=CC=CC=C1)C | C18H32NOPS2
